US06369075B1
7-[(4′-Trifluoromethyl-biphenyl-2-carbonyl)-amino]-quinoline-3-carboxylic acid benzhydryl-amide
7-[(4′-Trifluoromethyl-biphenyl-2-carbonyl)-amino]-quinoline-3-carboxylic acid (100 mg, 0.23 mmol) was combined with aminodiphenylmethane (42 mg, 0.23 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (53 mg, 0.27 mmol), 1-hydroxybenzotriazole (34 mg, 0.25 mmol), and triethylamine (0.13 ml, 0.92 mmol) in 1.5 ml of dichloromethane. After stirring overnight at ambient temperature, the reaction mixture was diluted with 50 ml of dichloromethane, and the organic phase washed sequentially with water, and brine, and then dried over anhydrous magnesium sulfate, filtered and concentrated under vacuum to provide a residue. This material was purified by preparative thin-layer-chromatography on silica eluting with ethyl acetate. The product containing band was collected and eluted with 5% methanol in ethyl acetate to afford 66 mg of the title compound as a colorless solid.

reactant | 7-[(4′-Trifluoromethyl-biphenyl-2-carbonyl)-amino]-quinoline-3-carboxylic acid | 0.23 mmol, 100 mg | FC(C1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C2C=C(C=NC2=C1)C(=O)O)(F)F | C24H15F3N2O3
reactant | aminodiphenylmethane | 0.23 mmol, 42 mg | NC(C1=CC=CC=C1)C1=CC=CC=C1 | C13H13N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.27 mmol, 53 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.25 mmol, 34 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 0.92 mmol, 0.13 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 1.5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 7-[(4′-Trifluoromethyl-biphenyl-2-carbonyl)-amino]-quinoline-3-carboxylic acid benzhydryl-amide | 66 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)NC(=O)C=1C=NC2=CC(=CC=C2C1)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F | C37H26F3N3O2
